US04743687
0.665 g of crystalline hypophosphorous acid was treated under nitrogen with 1.73 g of trimethyl orthoformate and the mixture was stirred at 20° C. for 2 hours. The resulting solution of crude methyl hypophosphite was added dropwise at 0° C. to a solution of 1 g of 4-nitrostyrene and 0.43 g of diisopropylethylamine in 5 ml of methanol. After 65 hours at 20° C. the same amount of methyl hypophosphite was again added and the mixture was stirred at 20° C. for a further 24 hours. The mixture was diluted with 30 ml of water and the pH was adjusted to 7 with aqueous sodium bicarbonate solution. After extraction with dichloromethane and chromatography on silica gel using 10% methanol in ethyl acetate for the elution there was obtained 0.5 g of 1-[2-(methoxyphosphinyl)ethyl]-4-nitrobenzene in the form of a yellow liquid.

reactant | hypophosphorous acid | 0.665 g | [PH2](=O)O | H3O2P
reactant | trimethyl orthoformate | 1.73 g | C(OC)(OC)OC | C4H10O3
reactant | methyl hypophosphite | [PH2](=O)OC | CH5O2P
reactant | 4-nitrostyrene | 1 g | [N+](=O)([O-])C1=CC=C(C=C)C=C1 | C8H7NO2
reactant | diisopropylethylamine | 0.43 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 1-[2-(methoxyphosphinyl)ethyl]-4-nitrobenzene | 0.5 g | COP(=O)CCC1=CC=C(C=C1)[N+](=O)[O-] | C9H12NO4P
